US07732461B2
3-Chloro-4-({(3R,4S)-4-[(3,4-dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-3-hydroxy-1-piperidinyl}methyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride
The free base of the title compound was prepared from racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one and 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde (for a synthesis see WO2004058144, Example 126(e)) according to the general method of Example 24(b), chromatographing with dichloromethane/methanol/0.88 ammonia 95:5:0.5, in 50% yield.

reactant | racemic 4-{[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]methyl}-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | N[C@@H]1[C@@H](CN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)Cl)O | C16H19ClN4O2
reactant | 3,4-dihydro-2H-pyrano[2,3-c]pyridine-6-carbaldehyde | O1CCCC=2C1=CN=C(C2)C=O | C9H9NO2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-Chloro-4-({(3R,4S)-4-[(3,4-dihydro-2H-pyrano[2,3-c]pyridin-6-ylmethyl)amino]-3-hydroxy-1-piperidinyl}methyl)-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride | 50% yield | Cl.ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3C[C@H]([C@H](CC3)NCC=3C=C1C(=CN3)OCCC1)O)=O | InChI=1S/C25H28ClN5O3.ClH/c26-18-10-29-20-3-4-23(33)31-13-16(24(18)25(20)31)12-30-6-5-19(21(32)14-30)28-9-17-8-15-2-1-7-34-22(15)11-27-17;/h3-4,8,10-11,16,19,21,28,32H,1-2,5-7,9,12-14H2;1H/t16?,19-,21+;/m0./s1
